### PR TITLE
feat(Topology/Metrizable): embed a countably separated space inside a space of sequences

### PR DESCRIPTION
**Pull request by janemms**
Add lemma on metrizability of a compact space with a sequence of continuous functions to metric spaces separating points on it.

---
This result is needed for proving the sequential Banach-Alaoglu theorem, which is to be pull requested next.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Metrizable/CountableSeparating.lean [hunk 1]
```diff
@@ -0,0 +1,235 @@
...
+
+section PseudoMetricSpace
+variable [∀ n, PseudoMetricSpace (Y n)]
+
+private lemma min_le_geometric {x y : X} (n : ℕ) :
+    ‖(1 / 2) ^ n * min (dist (f n x) (f n y)) 1‖ ≤ (1 / 2) ^ n := by
+  simp only [one_div, inv_pow, Real.norm_eq_abs, abs_mul, abs_inv, abs_pow, Nat.abs_ofNat,
+    inv_pos, Nat.ofNat_pos, pow_pos, mul_le_iff_le_one_right]
+  rw [abs_of_nonneg (by positivity)]
+  exact min_le_right ..
```
Comment (themathqueen) [inline Mathlib/Topology/Metrizable/CountableSeparating.lean]:
```suggestion
  simp [abs_of_nonneg]
```

**Review by FormulaRabbit81 — CHANGES_REQUESTED** [review]
Thanks for the PR! Actually some of these bits highlighted below are under PR elsewhere or have been PRed, sorry :(

File: Mathlib/Topology/Metrizable/CountableSeparating.lean [hunk 2]
```diff
@@ -0,0 +1,232 @@
...
+  dist_triangle := by simp [hd, dist_triangle]
+  edist_dist := by simp [hd, edist_dist]
+  uniformity_dist := by simp [hd, uniformity_dist]
+  cobounded_sets := by simp [hd, cobounded_sets]
+  __ := m
+
+lemma replaceDist_eq (m : PseudoMetricSpace X) (d : X → X → ℝ) (hd : d = dist) :
+    m.replaceDist d hd = m := by ext : 2; exact hd
+
+end PseudoMetricSpace
```
Comment (FormulaRabbit81) [inline Mathlib/Topology/Metrizable/CountableSeparating.lean]: These have been PRed or are in #29321, which simplifies things!

**Review by FormulaRabbit81 — CHANGES_REQUESTED** [review]

**Comment by YaelDillies** [comment]
Note: This is duplicating #30849. We are discussing in DMs.
